US05693651
(4) 5-[[7-(5-ethyl-2-pyridylmethoxy)-3-quinolyl]methyl]-2-iminothiazolidin-4-one
In ethanol (20 mL) was dissolved the crude residue (790 mg) of methyl 2-bromo-3-[7-(5-ethyl-2-pyridylmethoxy)-3-quinolyl]propionate. The solution was heated under reflux for 15 hours after addition of thiourea (140 mg, 1.84 mmol.) and sodium acetate (150 mg, 1.84 mmol.). After the completion of reaction was confirmed, ethanol was distilled off. To the residue were added ethyl acetate and aqueous sodium hydrogen carbonate. The organic portion was recovered, washed with water, and dried over sodium sulfate.

reactant | methyl 2-bromo-3-[7-(5-ethyl-2-pyridylmethoxy)-3-quinolyl]propionate | BrC(C(=O)OC)CC=1C=NC2=CC(=CC=C2C1)OCC1=NC=C(C=C1)CC | C21H21BrN2O3
reactant | thiourea | 1.84 mmol, 140 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.84 mmol, 150 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[[7-(5-ethyl-2-pyridylmethoxy)-3-quinolyl]methyl]-2-iminothiazolidin-4-one | C(C)C=1C=CC(=NC1)COC1=CC=C2C=C(C=NC2=C1)CC1C(NC(S1)=N)=O | C21H20N4O2S
